US09428456B2
(1.001a): 1-(3-tert-Butoxycarbonylamino-benzyl)-piperidine-4-carboxylic acid ethyl ester
A mixture of (3-formyl-phenyl)-carbamic acid tert-butyl ester (Schadendorf T et al., Tetrahedron Letters (2007), 48(51), 9044-9047), (1 g, 4.52 mmol), ethyl isonipecotate (800 mg, 5.09 mmol) and TEA (0.7 mL, 5 mmol) in MeOH (50 mL) is treated with acetic acid (1.03 mL, 18 mmol) and stirred at RT for 2 h. Sodium cyanoborohydride (398 mg, 6.33 mmol) is added at once and the reaction mixture is stirred for 18 h at RT. Water (5 mL) is added to the mixture and the solvents are evaporated. The residue is partitioned between diethyl ether (50 mL) and aqueous 0.1N HCl (50 mL). The aqueous phase is separated, washed twice with diethyl ether (25 mL) and basified with 1N NaOH solution (10 mL). The aqueous phase is extracted three times with DCM (3×50 mL). The combined organic phases are dried over MgSO4 and evaporated. The title compound is obtained as a thick oil; LC-MS A: tR=0.71 min; [M+H]+=363.48.

reactant | (3-formyl-phenyl)-carbamic acid tert-butyl ester | 4.52 mmol, 1 g | C(C)(C)(C)OC(NC1=CC(=CC=C1)C=O)=O | C12H15NO3
reactant | ethyl isonipecotate | 5.09 mmol, 800 mg | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | acetic acid | 18 mmol, 1.03 mL | C(C)(=O)O | C2H4O2
reactant | Sodium cyanoborohydride | 6.33 mmol, 398 mg | C(#N)[BH3-].[Na+]
solvent | MeOH | 50 mL | CO | CH4O
solvent | Water | 5 mL | O | H2O
product | 1-(3-tert-Butoxycarbonylamino-benzyl)-piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1CCN(CC1)CC1=CC(=CC=C1)NC(=O)OC(C)(C)C | C20H30N2O4
